US06812235B2
To a solution of oxalyl chloride(0.67 ml) in dichloromethane (80 ml) was added dropwise a solution of DMSO (1.18 ml) in dichloromethane(5 ml) at −78° C. To the mixture was added a solution of 1-(3,4-dimethoxyphenyl)propanol (1.50 g) in dichloromethane(25 ml) after 15 minutes. The mixture was stirred for an hour at −78° C. and for another hour at −45° C., then triethylamine(3.52 ml) was added. After stirring 20 minutes at 0° C., the mixture was quenched by a saturated aqueous NH4Cl solution, and extracted with dichloromethane. The organic layer was dried over MgSO4 and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with a mixture of ethyl acetate and n-hexane (1:7 to 1:1) to give 3,4-dimethoxy-hydrocinnamaldehyde (1.05 g, 70.7%).

reactant | oxalyl chloride | 0.67 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 1.18 ml | CS(=O)C | C2H6OS
reactant | 1-(3,4-dimethoxyphenyl)propanol | 1.50 g | COC=1C=C(C=CC1OC)C(CC)O | C11H16O3
reactant | triethylamine | 3.52 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3,4-dimethoxy-hydrocinnamaldehyde | 1.05 g, 70.7% | COC=1C=C(CCC=O)C=CC1OC | C11H14O3
